US04130565
To a stirred ice-cold ethereal Grignard solution (392 ml) containing 0.56 mole of ethylmagnesium bromide, is added 51.3 g (0.28 mole) of dry powdered cadmium chloride in small portions. Stirring is continued without heating for 5 minutes, followed by refluxing for 30-45 minutes until no Gilman test for Grignard reagent is observed. Then, 500 ml of dry benzene is added thereto, and the resulting cadmium reagent is cooled to below 0° C. (usually -10° to 0° C.). A solution of 91.3 g (0.5 mole) of methyl 2-(chloroformylmethylmercapto)acetate in 500 ml of dry benzene is added with vigorous stirring as rapidly as consistent with control of the exothermic reaction. The reaction mixture is stirred at room temperature for 3-5 hours, then decomposed by addition of cold 6N sulfuric acid, and extracted three times with ether. The organic extracts are combined, washed successively with an aqueous sodium bicarbonate solution and an aqueous sodium chloride solution and dried over sodium sulfate. After evaporation of the solvent in vacuo, the residual liquid is distilled under reduced pressure to give 53.7 g (60.9% yield) of methyl 2-(3-methylacetonylmercapto)acetate as an oily material, bp. 137°-140° C./13 mmHg). IR: νmax Neat cm-1 : 1740, 1711; νmaxCHCl3 cm-1 : 1737, 1712. NMR: ppm (CDCl3): 1.10 (triplet, 3H, J = 7, CH2CH3), 2.62 (quartet, 2H, J = 7, CH2CH3), 3.28 (singlet, 2H, SCH2COO), 3.43 (singlet, 2H, SCH2CO), 3.73 (singlet, 3H, COOMe). Anal. Calcd. for C7H12O3S (%): C, 47.70; H, 6.86; S, 18.19. Found (%): C, 47.96; H, 6.98; S, 17.90.

reactant | ethylmagnesium bromide | 0.56 mole | C(C)[Mg]Br
reactant | methyl 2-(chloroformylmethylmercapto)acetate | 0.5 mole, 91.3 g | ClC(=O)CSCC(=O)OC | C5H7ClO3S
reactant | sulfuric acid | 6N | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
catalyst | cadmium chloride | 0.28 mole, 51.3 g | [Cl-].[Cd+2].[Cl-]
catalyst | cadmium | [Cd] | Cd
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-(3-methylacetonylmercapto)acetate | 53.7 g, 60.9% yield | CCC(CSCC(=O)OC)=O | C7H12O3S
